US06525036B2
A solution of 3-cyclohexylpropanoic acid (9.49 g, 60.7 mmol) in THF (100 mL) was cooled to −78° C. in a cooling bath and then treated with triethylamine (15.14 mL, 108 mmol) and pivaloyl chloride (11.6 mL, 94 mmol) to provide “Mixture A.” The cooling bath was removed and Mixture A was stirred at 0° for 1 hour. A solution of 4-(S)-isopropylisoxazolidinone (10.55 g, 81.7 mmol) in THF (100 mL) was cooled to −45° C. and then treated with butyllithium (51.1 mL of a 1.6M hexane solution), forming a thick slurry as “Mixture B.” Mixture B was allowed to warm to 0° C. over 1 hour. Mixture A was cooled to −78° C. and then Mixture B was added to the Mixture A. The cooling bath was removed and the combine mixture was permitted to warm to ambient temperature. The mixture remained at ambient temperature for 1 hour and then was diluted with 0.25 M hydrochloric acid (200 mL). The dilution was extracted with ethyl acetate (200 mL) and the extract was washed with saturated aqueous sodium bicarbonate (200 mL) and brine (200 mL), dried over MgSO4, filtered, and evaporated to dryness. Product was purified from the residue by chromatography on silica gel, using 0-20% ethyl acetate/hexane as eluent to provide (S)-3-cyclohexylpropionyl-4-isopropyloxazolidin-2-one (17.2 g). MS (M+1): 268.

reactant | 3-cyclohexylpropanoic acid | 60.7 mmol, 9.49 g | C1(CCCCC1)CCC(=O)O | C9H16O2
reactant | triethylamine | 108 mmol, 15.14 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 94 mmol, 11.6 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 4-(S)-isopropylisoxazolidinone | 81.7 mmol, 10.55 g | C(C)(C)[C@@H]1C(NOC1)=O | C6H11NO2
reactant | butyllithium | C(CCC)[Li]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | (S)-3-cyclohexylpropionyl-4-isopropyloxazolidin-2-one | 17.2 g | C1(CCCCC1)CCC(=O)N1C(OC[C@@H]1C(C)C)=O | C15H25NO3
